US07851622B2
A mixture of ethyl 5-bromothiophene-2-carboxylate (1.0 g, 4.25 mmol), 4-chlorophenylboronic acid (0.998 g, 6.38 mmol), 2.0 M aq NaHCO3 (6.38 ml, 12.76 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.492 g, 0.425 mmol) in DMF (40 ml) under nitrogen was stirred at 100° C. under nitrogen in a sealed tube for 18 hours as described in WO 2007/011284. The reaction was then cooled to RT, diluted with saturated aq NaHCO3 (40 ml) and extracted with EtOAc (40 ml). The EtOAc extracts were dried over Na2SO4 and concentrated. The crude product was purified by ISCO chromatography on a silica gel column (120 g) employing a 10 min gradient ranging from hexane to 30% EtOAc to elute ethyl 5-(4-chlorophenyl)thiophene-2-carboxylate (1.05 g, 3.94 mmol, 93% yield) as a white solid. LC MS at t=2.70 min. (m+H=267) Phenomenex S5 C18 4.6×30 mm column/water-MeOH-TFA 90:10:0.1 to 10:90:0.1 gradient over 2 min at 5 mL/min with 1 min hold at the end of the gradient. 1H NMR (400 MHz, CD3OD) δ ppm 1.39 (t, J=7.18 Hz, 3H), 4.37 (q, J=7.22 Hz, 2H), 7.43-7.51 (m, 3H), 7.71 (d, J=8.56 Hz, 2H), 7.78 (d, J=4.03 Hz, 1H).

reactant | ethyl 5-bromothiophene-2-carboxylate | 4.25 mmol, 1.0 g | BrC1=CC=C(S1)C(=O)OCC | C7H7BrO2S
reactant | 4-chlorophenylboronic acid | 6.38 mmol, 0.998 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | NaHCO3 | 40 ml | C(=O)(O)[O-].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.425 mmol, 0.492 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | NaHCO3 | 12.76 mmol, 2.0 M, 6.38 ml | C(=O)(O)[O-].[Na+]
product | ethyl 5-(4-chlorophenyl)thiophene-2-carboxylate | 3.94 mmol, 1.05 g, 93% yield | ClC1=CC=C(C=C1)C1=CC=C(S1)C(=O)OCC | C13H11ClO2S
